US07030139B2
16C: 2-(4-Ethoxybenzyl)-N,N-diethyl-1-isopentyl-1H-benzimidazole-5-carboxamide.
Following general procedure 13B, (4-ethoxyphenyl)acetic acid (0.110 g, 0.612 mmol), HATU (0.233 g, 0.611 mmol), DIPEA (0.15 m, 0.86 mmol), and 3-amino-N,N-diethyl-4-(isopentylamino)benzamide (0.154 g, 0.556 mmol) were combined. The crude product was purified by column chromatography (19:1 CH2Cl2:MeOH) to provide the title compound (0.211 g, 90%). 1H-NMR (CD3OD): δ 7.67 (s, 1H), 7.50 (d, J=8.4 Hz, 1H), 7.30 (dd, J=8.4 Hz, J=2.0 Hz, 1H), 7.16 (d, J=9.2 Hz, 2H), 6.86 (d, J=8.4 Hz, 2H), 4.28 (s, 2H), 4.12 (m, 2H), 3.98 (q, J=7.6 Hz, 2H), 3.57 (br s, 2H), 3.34 (br s, 2H), 1.62–1.48 (m, 1H), 1.34 (t, J=7.6 Hz, 3H), 1.36–1.07 (overlapping 2×br s and m, 8H), 0.88 (d, J=6.8 Hz, 6H). MS (ES) (M+H)+=422. Anal. Calcd for C26H35N3O2.1.7 TFA.0.2H2O: C, 57.05; H, 6.04; N, 6.79. Found: C, 57.11; H, 6.09; N, 6.69.

reactant | (4-ethoxyphenyl)acetic acid | 0.612 mmol, 0.110 g | C(C)OC1=CC=C(C=C1)CC(=O)O | C10H12O3
reactant | HATU | 0.611 mmol, 0.233 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.86 mmol | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-amino-N,N-diethyl-4-(isopentylamino)benzamide | 0.556 mmol, 0.154 g | NC=1C=C(C(=O)N(CC)CC)C=CC1NCCC(C)C | C16H27N3O
product | 2-(4-Ethoxybenzyl)-N,N-diethyl-1-isopentyl-1H-benzimidazole-5-carboxamide | 0.211 g, 90% | C(C)OC1=CC=C(CC2=NC3=C(N2CCC(C)C)C=CC(=C3)C(=O)N(CC)CC)C=C1 | C26H35N3O2
